US08937078B2
Step B: Preparation of 1-[6-amino-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
Ammonium chloride (4.10 g, 76.6 mmol) and water (9.1 mL) were added to a solution of 1-[6-nitro-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (5.92 g, 85% pure, 10.9 mmol) in acetone (46 mL). Zinc dust (5.01 g, 76.6 mmol) was then added in portions with vigorous stirring. Stirring was continued for 45 min, at which point the reaction mixture was filtered through diatomaceous earth. The filter cake was rinsed thoroughly with EtOAc (100 mL). The filtrate was concentrated and the residue was dissolved in EtOAc (75 mL), decanting from the remaining salts. The organic layer was washed with brine (45 mL), dried (MgSO4), and concentrated. The residue was purified by FCC (2-70% EtOAc/hexanes) to yield the titled compound (4.19 g, 89% yield). MS (ESI/Cl): mass calcd. for C20H27N5O4Si, 430.2; m/z found, 429.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.56 (d, J=0.6 Hz, 1H), 8.15 (d, J=0.6 Hz, 1H), 7.53 (d, J=8.6 Hz, 1H), 7.49 (d, J=2.6 Hz, 1H), 7.13 (dd, J=8.6, 2.8 Hz, 1H), 5.78 (s, 2H), 4.35 (q, J=7.1 Hz, 2H), 4.09 (s, 2H), 3.57-3.43 (m, 2H), 1.37 (t, J=7.1 Hz, 3H), 0.86-0.74 (m, 2H), -0.08 (s, 9H).

reactant | Ammonium chloride | 76.6 mmol, 4.10 g | [Cl-].[NH4+]
reactant | water | 9.1 mL | O | H2O
reactant | 1-[6-nitro-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 10.9 mmol, 5.92 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)[N+](=O)[O-] | C20H25N5O6Si
solvent | acetone | 46 mL | CC(=O)C | C3H6O
catalyst | Zinc | 76.6 mmol, 5.01 g | [Zn] | Zn
product | 1-[6-amino-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 4.19 g, 89% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)N | C20H27N5O4Si
